US04490527
B. 2-[3-[3-(4morpholinylmethyl)phenoxy]propyl]-1H-isoindole-1,3(2H)-dione
To 1.58 g (0.033 moles) of 50% sodium hydride is added 15 ml DMF; then 6.3 g (0.033 moles) of 3-(4-morpholinylmethyl)phenol, dissolved in 30 ml DMB, is added dropwise to the stirred suspension at room temperature. This mixture is stirred 20 minutes and then N-(3-bromopropyl)-phthalimide, 9 g. (0.033 moles) is added to the mixture and stirred. A clear, amber solution results. After 2 hours, this solution is poured into ice-water and extracted with 100 ml of chloroform. The organic layer is washed once with 100 ml 5%NaOH, and once with 100 ml water, dried over MgSO4, filtered and evaporated. The residue is dissolved in ether and washed again with 50 ml water. Then the organic layer is dried over MgSO4, filtered and evaporated. The residue rapidly forms a white solid. This is recrystallized from acetonitrile, m.p. 90°-93° C. (yield=39 g).

reactant | sodium hydride | 0.033 moles, 1.58 g | [H-].[Na+]
reactant | 3-(4-morpholinylmethyl)phenol | 0.033 moles, 6.3 g | N1(CCOCC1)CC=1C=C(C=CC1)O | C11H15NO2
reactant | N-(3-bromopropyl)-phthalimide | BrCCCN1C(C=2C(C1=O)=CC=CC2)=O | C11H10BrNO2
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | 2-[3-[3-(4morpholinylmethyl)phenoxy]propyl]-1H-isoindole-1,3(2H)-dione | N1(CCOCC1)CC=1C=C(OCCCN2C(C3=CC=CC=C3C2=O)=O)C=CC1 | C22H24N2O4
